US05767129
2-(4,4-Diphenylbutyl)-5-hydroxyisoquinolinium bromide
A mixture of 5-hydroxyisoquinoline (2.17 g, 14.95 mmol) and 1-bromo-4,4-diphenylbutane (4.79 g, 16.56 mmol) in 75 mL of anhydrous DMF was stirred at 80° C. for 16 hours. The reaction mixture was cooled to room temperature. Ethyl acetate (200 mL) was added to precipitate product. The solid was collected by filtration and washed with ethyl acetate (1×70 mL). The solid was air-dried to give 4.52 g of product as an off-white solid.

reactant | 5-hydroxyisoquinoline | 14.95 mmol, 2.17 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | 1-bromo-4,4-diphenylbutane | 16.56 mmol, 4.79 g | BrCCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H17Br
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 2-(4,4-Diphenylbutyl)-5-hydroxyisoquinolinium bromide | 4.52 g | [Br-].C1(=CC=CC=C1)C(CCC[N+]1=CC2=CC=CC(=C2C=C1)O)C1=CC=CC=C1 | InChI=1S/C25H23NO.BrH/c27-25-15-7-13-22-19-26(18-16-24(22)25)17-8-14-23(20-9-3-1-4-10-20)21-11-5-2-6-12-21;/h1-7,9-13,15-16,18-19,23H,8,14,17H2;1H
